US04454145
2,2,8,8-Tetramethyl-1,9-nonanediol dinicotinate
106.2 Grams (0.6 mole) of nicotinoyl chloride hydrochloride in 300 ml of anhydrous pyridine were reacted with 21.6 grams (0.1 mole) of 2,2,8,8-tetramethyl-1,9-nonanediol according to the procedure described in the above example.

reactant | nicotinoyl chloride hydrochloride | 0.6 mole | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 2,2,8,8-tetramethyl-1,9-nonanediol | 0.1 mole, 21.6 grams | CC(CO)(CCCCCC(CO)(C)C)C | C13H28O2
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 2,2,8,8-Tetramethyl-1,9-nonanediol dinicotinate | C(C1=CN=CC=C1)(=O)OCC(CCCCCC(COC(C1=CN=CC=C1)=O)(C)C)(C)C | C25H34N2O4
